US20010053788A1
Part B: To a stirred mixture of 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboximidothioic acid methyl ester (4.20 gram, 8.30 mmol) in methanol (75 ml) was added dimethylamine (10 ml) and dichloromethane (75 ml) and the resulting solution was stirred at room temperature for 6 hours. Evaporation in vacuo and subsequent flash chromatographic purification (diethyl ether/petroleum ether=1/1 (v/v), followed by diethyl ether) gave a solid which was further purified by recrystallisation from diisopropyl ether to yield N1,N1-dimethyl-N2-((4-chloro-phenyl)sulfonyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboxamidine (2.63 gram, 63% yield). Melting point: 182° C.

reactant | 3-(4-chlorophenyl)-N-((4-chlorophenyl)sulfonyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboximidothioic acid methyl ester | 8.30 mmol, 4.20 gram | CSC(=NS(=O)(=O)C1=CC=C(C=C1)Cl)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C23H19Cl2N3O2S2
reactant | dimethylamine | 10 ml | CNC | C2H7N
reactant | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | methanol | 75 ml | CO | CH4O
product | N1,N1-dimethyl-N2-((4-chloro-phenyl)sulfonyl)-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole-1-carboxamidine | 2.63 gram, 63% yield | CN(C(=NS(=O)(=O)C1=CC=C(C=C1)Cl)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C | C24H22Cl2N4O2S
